US03954754
EXAMPLE 61: 6-(2,4-Dichlorobenzoyl)-3-isopropylidenehydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine
A solution of 1.2 g of crude 6-(2,4-dichlorobenzoyl)-3-hydrazino-5,6,7,8-tetrahydropyrido [4,3-c]pyridazine in 5 cc of acetone is heated on a water bath for 5 minutes. The title compound has a M.P. of 211°-214° (decomp., from methanol).

reactant | 6-(2,4-dichlorobenzoyl)-3-hydrazino-5,6,7,8-tetrahydropyrido [4,3-c]pyridazine | 1.2 g | ClC1=C(C(=O)N2CC3=C(N=NC(=C3)NN)CC2)C=CC(=C1)Cl | C14H13Cl2N5O
reactant | acetone | 5 cc | CC(=O)C | C3H6O
product | 6-(2,4-Dichlorobenzoyl)-3-isopropylidenehydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | ClC1=C(C(=O)N2CC3=C(N=NC(=C3)NN=C(C)C)CC2)C=CC(=C1)Cl | C17H17Cl2N5O
